US06093718
Ethyl acetate saturated with gaseous HCl was added to a solution of 1-(4-chlorophenylsulphonyl)-4-[1-(t-butoxyoxycarbonyl)piperazine-4-ylcarbonyl]piperidine (1.10 g) in ethyl acetate (25 ml). The reaction was stirred at room temperature for 2 hours. Solvent was removed by evaporation to give the crude 1-(4-chlorophenylsulphonyl)-4-(4-piperazinylcarbonyl)piperidine hydrochloride.

reactant | HCl | Cl | ClH
reactant | 1-(4-chlorophenylsulphonyl)-4-[1-(t-butoxyoxycarbonyl)piperazine-4-ylcarbonyl]piperidine | 1.10 g | ClC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCN(CC1)C(=O)OOC(C)(C)C | C21H30ClN3O6S
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-chlorophenylsulphonyl)-4-(4-piperazinylcarbonyl)piperidine hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)N1CCNCC1 | InChI=1S/C16H22ClN3O3S.ClH/c17-14-1-3-15(4-2-14)24(22,23)20-9-5-13(6-10-20)16(21)19-11-7-18-8-12-19;/h1-4,13,18H,5-12H2;1H
